US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-IX, 30 mg, 0.070 mmol), 2-amino-N-methylacetamide (9.19 mg, 0.104 mmol), HATU (34.4 mg, 0.090 mmol), and 4-methylmorpholine (70.4 mg, 0.696 mmol) were added to DMF (1 mL). This was stirred overnight before it was purified by prep HPLC (PHENOMENEX® Luna 5u 21×250 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 30 min, 25 mL/min, 220 nM, product retention=29.0 min) to provide (R/S)-2-hydroxy-N-(2-(methylamino)-2-oxoethyl)-2-(4-(5-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (3.5 mg, 6.28 μmol, 9.03% yield): LCMS=502.2 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.55 (1 H, br. s.), 8.17 (2 H, d, J=8.14 Hz), 7.59-7.85 (7 H, m), 5.20 (1 H, s), 3.78-4.01 (2 H, m), 2.75 (3 H, s); HPLC peak RT=8.2 min (Method A).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.070 mmol, 30 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=NOC(=C1C(F)(F)F)C1=CC=CC=C1 | C20H12F3N3O5
reactant | 2-amino-N-methylacetamide | 0.104 mmol, 9.19 mg | NCC(=O)NC | C3H8N2O
reactant | HATU | 0.090 mmol, 34.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-methylmorpholine | 0.696 mmol, 70.4 mg | CN1CCOCC1 | C5H11NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-2-hydroxy-N-(2-(methylamino)-2-oxoethyl)-2-(4-(5-(5-phenyl-4-(trifluoromethyl)isoxazol-3-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide | 6.28 μmol, 3.5 mg, 9.03% yield | OC(C(=O)NCC(=O)NC)C1=CC=C(C=C1)C1=NOC(=N1)C1=NOC(=C1C(F)(F)F)C1=CC=CC=C1 | C23H18F3N5O5
